US05650422
By the method of Example 44 condensation of 2-chloromethyl-4-propyl-5,6-dimethoxysaccharin (0.6 g) and 1-phenyltetrazol-5-thiol sodium salt (0.36 g) in dimethylformamide (5 mL) and purification of the product by column chromatography on silica gel using ethyl acetate-hexane (3:7) as eluant followed by trituration with hexane afforded 2-(1-phenyltetrazol-5-yl)thiomethyl-4-propyl-5,6-dimethoxysaccharin, 0.65 g, 76% yield, mp 145°-146° C.

reactant | 2-chloromethyl-4-propyl-5,6-dimethoxysaccharin | 0.6 g | ClCN1S(=O)(=O)C2=CC(=C(C(=C2C1=O)CCC)OC)OC | C13H16ClNO5S
reactant | 1-phenyltetrazol-5-thiol sodium salt | 0.36 g | [Na].C1(=CC=CC=C1)N1N=NN=C1S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | hexane | CCCCCC | C6H14
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(1-phenyltetrazol-5-yl)thiomethyl-4-propyl-5,6-dimethoxysaccharin | 76% yield | C1(=CC=CC=C1)N1N=NN=C1SCN1S(=O)(=O)C2=CC(=C(C(=C2C1=O)CCC)OC)OC | C20H21N5O5S2
